data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_673416_1,[C:1](/[C:5](=[C:2](\[N:4]([H:11])[H:12])[O:6][N:3]([H:9])[H:10])[H:15])([O:7][H:8])([H:13])[H:14]>>[C:1](/[C:2]([N:4]([H:11])[H:12])=[C:5](/[O:6][N:3]([H:9])[H:10])[H:15])([O:7][H:8])([H:13])[H:14],69.14485249999132
MR_25064_0,[C:1](/[C:2]([N:3]([H:6])[H:7])=[C:5](\[N:4]([H:8])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C@@:2]([N:3]([H:6])[H:7])(/[C:5](=[N:4]/[H:8])[H:10])[H:9])([H:11])([H:12])[H:13],68.25756750000217
MR_136259_0,[C@@:1]1([O:8][C:5]([H:16])([H:17])[H:18])([H:9])[C@:3]([C:6]([H:19])([H:20])[H:21])([H:11])[C@@:2]([N:7]([H:12])[H:13])([H:10])[C:4]1([H:14])[H:15]>>[C@@:1]1([C@:3]([C:6]([H:19])([H:20])[H:21])([O:8][C:5]([H:16])([H:17])[H:18])[H:11])([H:9])[C@@:2]([N:7]([H:12])[H:13])([H:10])[C:4]1([H:14])[H:15],71.35428000001312
MR_624013_1,[C:1]([N:3]([H:11])[H:12])(/[C:5](=[C:2](\[N:4]([H:13])[H:14])[O:7][H:9])[H:15])([O:6][H:8])[H:10]>>[C:1](=[C:5](\[C:2]([N:3]([H:11])[H:12])([N:4]([H:13])[H:14])[O:7][H:9])[H:15])(\[O:6][H:8])[H:10],63.801062500000114
MR_37251_0,[C:1]([C:2]([N:6]=[O:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[N:5]=[O:7]>>[C:1]([C:2]([N:5]=[O:7])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[N:6]=[O:8],47.5538325000008
MR_208549_1,[C:1]([C:2]([O:7][H:9])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4]([N:6]([H:12])[H:13])=[O:8])[N:5]([H:10])[H:11]>>[C:1]([C:2](=[O:7])[H:14])([C:3]([H:16])([H:17])[H:18])([C:4]([N:6]([H:12])[H:13])([O:8][H:9])[H:15])[N:5]([H:10])[H:11],69.42095250000762
MR_443656_0,[C@:1]([C:2]([H:10])([H:11])[H:12])([N:3]([H:8])[H:9])([O:4][O:5][H:6])[H:7]>>[C@@:1]([N:3]([H:8])[H:9])([O:4][C:2]([H:10])([H:11])[H:12])([O:5][H:6])[H:7],53.900367499992825
MR_381055_1,[C:1]([C:2]([O:5][H:8])=[O:7])([N:3]([H:10])[H:11])(/[C:4](=[N:6]/[H:12])[H:13])[H:9]>>[C:1](\[N:3]([H:10])[H:11])(=[C:4](\[N:6]([C:2]([O:5][H:8])=[O:7])[H:12])[H:13])[H:9],60.438917499963765
MR_208232_0,[C:1]([C:2]1([N:6]=[C:5]([H:15])[H:16])/[C:3](=[N:8]/[H:10])[N:7]1[H:9])([N:4]([H:11])[H:12])([H:13])[H:14]>>[C:1]([C:3](/[C:2]([N:6]=[C:5]([H:15])[H:16])=[N:7]/[H:9])=[N:8]\[H:10])([N:4]([H:11])[H:12])([H:13])[H:14],53.52010249998983
MR_5206_0,[C:1]([O:4][C:3]([C:2]([H:9])([H:10])[H:11])=[O:5])([H:6])([H:7])[H:8]>>[C:1]([O:5][C:3]([C:2]([H:9])([H:10])[H:11])=[O:4])([H:6])([H:7])[H:8],52.52614250000249
MR_107155_0,[C:1]1([H:8])([H:9])[C:2](=[O:6])[O:5][O:4][C:3]1=[O:7]>>[C:1]1([H:8])([H:9])[C:2](=[O:6])[O:4][O:5][C:3]1=[O:7],71.43773749998076
MR_313932_1,[C@:1]12([H:10])[C:2]([H:13])([H:14])[C@@:5]([C:3]([H:15])([H:16])[H:17])([O:8][H:9])[C@@:4]1([N:6]([H:11])[H:12])[O:7]2>>[C:1]1([C:3]([H:15])([H:16])[H:17])([H:10])[C:2]([H:13])([H:14])[C:5]([O:8][H:9])=[C:4]([N:6]([H:11])[H:12])[O:7]1,53.23145249996955
MR_307758_2,[C:1]1([O:7][H:9])([O:8][H:10])[C:4]([C:2]([C:3]([H:17])([H:18])[H:19])([H:13])[H:14])([N:5]([H:11])[H:12])[C:6]1([H:15])[H:16]>>[C:1]([C:4]([C:2]([C:3]([H:17])([H:18])[H:19])([H:13])[H:14])=[C:6]([H:15])[H:16])([N:5]([H:11])[H:12])([O:7][H:9])[O:8][H:10],67.06155250000776
MR_165864_1,[C:1]([C:3]([O:4][C:2]([H:11])([H:12])[H:13])([O:5][H:9])[O:7][H:8])(=[O:6])[H:10]>>[C:1]([C:3]([O:4][C:2]([H:11])([H:12])[H:13])=[O:7])([O:5][H:9])([O:6][H:8])[H:10],30.28565999997525
MR_278160_0,[C:1](/[C:3]([C:2]([H:11])([H:12])[H:13])=[N:6]/[H:8])([O:4][N:5][O:7])([H:9])[H:10]>>[C:1]([O:4]/[C:3]([C:2]([H:11])([H:12])[H:13])=[N:6]/[H:8])([N:5]=[O:7])([H:9])[H:10],73.2192099999773
MR_113686_0,[C:1](/[C:6](=[C:5](\[N:7]=[C:2]([N:3]([H:8])[H:9])[N:4]([H:10])[H:11])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:6]1([H:13])[C:2]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[N:7]=[C:5]1[H:12])([H:14])([H:15])[H:16],53.2176475000044
MR_137317_0,[N:1](/[C:3](=[C:2](\[O:4][H:5])[H:8])[H:9])([H:6])[H:7]>>[N:1]([C:2](=[C:3]([H:8])[H:9])[O:4][H:5])([H:6])[H:7],66.6191650000011
MR_494761_0,[C:1](/[C:2](=[C:3](\[N:5]([H:13])[H:14])[C:6](=[C:7]([H:17])[H:18])[H:16])[N:4]([H:11])[H:12])([O:8][H:10])=[N:9]/[H:15]>>[C:1](/[C:3](=[C:2](\[N:4]([H:11])[H:12])[C:6](=[C:7]([H:17])[H:18])[H:16])[N:5]([H:13])[H:14])([O:8][H:10])=[N:9]/[H:15],68.59265250003006
MR_176354_2,[C:1]([N:4]([N:7]([H:10])[H:11])[H:9])(/[C:6]([C:3]([H:19])([H:20])[H:21])=[C:5](\[C:2]([H:16])([H:17])[H:18])[N:8]([H:12])[H:13])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[N:4]([N:7]([H:10])[H:11])[C:6]1([C:3]([H:19])([H:20])[H:21])[C:5]([C:2]([H:16])([H:17])[H:18])([N:8]([H:12])[H:13])[H:9],69.15050000001273
MR_115514_0,[N:1]([N:2]([H:6])[H:7])([N:3]=[O:4])[H:5]>>[N:1]([N:2]([H:6])[H:7])[N:3][O:4][H:5],40.51830249998268
MR_464853_2,[C:1]([C:4]([H:18])([H:19])[H:20])([C:5]([C:3]([C:2]([O:8][H:13])([O:9][H:14])[H:15])([H:16])[H:17])=[O:10])([O:6][H:11])[O:7][H:12]>>[C:1]1([C:4]([H:18])([H:19])[H:20])([O:6][H:11])[C:5]([C:3]([C:2]([O:8][H:13])([O:9][H:14])[H:15])([H:16])[H:17])([O:10][H:12])[O:7]1,43.49265250005288
